* ADG4458 SPICE Macro-model
* Generic Desc: 8-Channel Differential 32-bit ADC
* Revision History: 1.2 (12/2023)
*
* Begin Notes:
* The model provides an static approximation of analog input impedances and power  
* consumption for nominal applications (AVDD=5V, TVDD=3.3V, Fs=96kHz, BCLK=64fs)
* VDD18 is assumed to always be an LDO output but can be turned on/off
*
* Not Modeled:
* Transient characteristics or digital/clocking characteristics
*
* Parameters modeled include:
*	Analog Input Impedance
*	AVDD, TVDD, and VREF Current
*   VDD18 LDO Output and Pulldown
*   Digital IO Leakage Current
*
* Connections
*	1  = MCLK		        17  = I2C		    33  = AOUTL3N			
*	2  = BCLK/DCLK	        18  = AOUTL1P	    34  = VREFH3
*	3  = LRCK/DSDL1		    19  = AOUTL1N	    35  = VREFL3
*	4  = SDTI1/DSDR1   	    20  = VREFL1	    36  = AOUTR3N
*	5  = SDTI2/DSDL2 	    21  = VREFH1	    37  = AOUTR3P
*	6  = SDTI3/DSDR2/TDMO1  22  = AOUTR1N	    38  = AOUTL4P
*	7  = SDTI4/DSDR3/TDMO2  23  = AOUTR1P	    39  = AOUTL4N
*	8  = DSDR3              24  = AOUTL2P	    40  = VREFH4
*	9  = DSDL4		        25  = AOUTL2N	    41  = VREFL4
*	10  = DSDR4		        26  = VREFL1	    42  = AOUTR4N
*	11  = DZF/SMUTE	        27  = VREFH2	    43  = AOUTR4P
*	12  = CAD1/DCHAIN       28  = AOUTR2N	    44  = LDOE
*	13  = SDA/CDTI/TDM0     29  = AOUTR2P	    45  = TVDD
*	14  = SCL/CCLK/TDM1     30  = AVSS		    46  = DVSS
*	15  = CAD0_I2C/CSN/DIF  31  = AVDD		    47  = VDD18
*	16  = PS/CAD0_SPI       32  = AOUTL3P	    48  = PDN
*									            49  = EPAD

.SUBCKT AK4458 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 37 38 39 40 41 42 43 44 45 46 47 48 49

.PARAM 
+   R_PULLDOWN_500 = { IF( (V(48)<=(V(45)*0.5)) & ((V(44)>=(V(45)*0.5) & V(44)<=3.4)) , 500 , 100E06 ) }
+   R_VDD18_OUT    = { 0.5 }
+   AVDD_GAIN      = { 0.012424242424242426 }
+   TVDD_GAIN      = { 0.005151515151515153 }
 
* VDD18 LDO
EVDD18  66 46 VALUE = { IF((V(48)>=(V(45)*0.5)) & (V(44)>=(V(45)*0.5)), 1.8 , 0 ) }
RVDD18  66 46 { R_PULLDOWN_500 }
RVDDOUT 66 47 { R_VDD18_OUT }

* POWER PIN APPROXIMATION
GAVDD 31 30 VALUE = { IF((V(48)>=(V(45)*0.5)), (V(31) * AVDD_GAIN) , 100E-06) }
GTVDD 45 46 VALUE = { IF((V(48)>=(V(45)*0.5)), (V(45) * TVDD_GAIN) , 100E-06) }

* ADC REFERENCE PINS
RVREF1 21 20 50E03
RVREF2 27 26 50E03
RVREF3 34 35 50E03
RVREF4 40 41 50E03

* ANALOG OUTPUT PINS
XL1PN 18 19 30 20 21 4 AK4458_AOUT_PIN
XR1PN 23 22 30 20 21 4 AK4458_AOUT_PIN
XL2PN 24 25 30 26 27 4 AK4458_AOUT_PIN
XR2PN 29 28 30 26 27 4 AK4458_AOUT_PIN
XL3PN 32 33 30 35 34 4 AK4458_AOUT_PIN
XR3PN 37 36 30 35 34 4 AK4458_AOUT_PIN
XL4PN 38 39 30 41 40 4 AK4458_AOUT_PIN
XR4PN 43 42 30 41 40 4 AK4458_AOUT_PIN

* DIGITAL IO PINS
RDIO01 23 46 1E06
RDIO02 24 46 1E06
RDIO03 28 46 1E06

RDIO04 29 46 1E06
RDIO05 30 46 1E06
RDIO06 31 46 100E03
RDIO07 32 46 100E03
RDIO08 33 46 1E06
RDIO09 34 46 1E06
RDIO10 35 46 1E06

RDIO11 36 46 100E03
RDIO12 37 46 1E06
RDIO13 38 46 1E06
RDIO14 39 46 1E06
RDIO15 40 46 1E06
RDIO16 41 46 1E06
RDIO17 42 46 1E06

RDIO44 44 46 1E06
RDIO48 48 46 1E06

.ENDS AK4458

* AK4458 DAC Output Pin Impedance, Crosstalk, and Clipping
* Connections
*	1 = AOUTP    2 = AOUTN    3 = AGND    4 = VREFL    5 = VREFH    6 = SIG
.SUBCKT AK4458_AOUT_PIN 1 2 3 4 5 6

.PARAM 
+   DCLAMP_VJ     = {  0.2013 }
+   DCLIP_EG      = {  0.69 }
+   DAC_AOUT_R    = {  140 }
+   DAC_MIN_VREFL = { -0.3 }
+   DAC_MAX_VREFH = {  5.5 }
+   DAC_REF_MIN   = { IF((V(4) <= DAC_MIN_VREFL), DAC_MIN_VREFL, V(4)) }
+   DAC_REF_MAX   = { IF((V(5) >= DAC_MAX_VREFH), DAC_MAX_VREFH, V(5)) }
+   DAC_REF_RANGE = { IF((V(5) <= V(4)), 0, (DAC_REF_MAX - DAC_REF_MIN)) }
+   DAC_MIN_SCALE = { ((DAC_REF_MAX - DAC_REF_MIN) - (DAC_REF_RANGE * 0.56)) / 2 }
+   DAC_MAX_SCALE = { ((DAC_REF_MAX - DAC_REF_MIN) + (DAC_REF_RANGE * 0.56)) / 2 }

* Uncomment these lines to simulate pin clip @ VREFL/VREFH
EAOUTVLIML 11 3 VALUE={ DAC_REF_MIN }
EAOUTVLIMH 12 3 VALUE={ DAC_REF_MAX }
XAOUTVLIMP 1 11 12 AK4458_DCLAMP
XAOUTVLIMN 2 11 12 AK4458_DCLAMP

R1 6 3 10E03
C1 6 3 100E-12

EBIAS NBIAS 3 VALUE={ DAC_REF_MIN + (DAC_REF_RANGE / 2) }
EOUTP NOUTP NBIAS VALUE={ IF(V(6) >= 2.8, DAC_MAX_SCALE, IF(V(6) <= -2.8, DAC_MIN_SCALE, (V(6) / 2))) }
EOUTN NOUTN NBIAS NOUTP NBIAS -1

ROUTP NOUTP 1 { DAC_AOUT_R }
COUTP NOUTP 3 30E-12

ROUTN NOUTN 2 { DAC_AOUT_R }
COUTN NOUTN 3 30E-12

.ENDS AK4458_AOUT_PIN

* Analog Signal Clamp
* Uses a BAT54 Schottky diode model; the resistors do not reflect devices.
* Instead they improve modeling in the reverse mode of operation.
* Connections
*	1 = SIG    2 = VLOW    3 = VHIGH    
.SUBCKT AK4458_DCLAMP 1 2 3

.PARAM
+   C1 = { 10E-12 }
+   C2 = { 10E-12 }
+   R1 = { 3.6E+07 }
+   R2 = { 3.6E+07 }

.MODEL BAT54 D( 
+    IS = 2.117E-07 
+    N = 1.016 
+    BV = 36 
+    IBV = 1.196E-06 
+    RS = 2.637 
+    CJO = 1.114E-11 
+    VJ = 0.2013 
+    M = 0.3868 
+    FC = 0.1 
+    TT = 5E-09 
+    EG = 0.69 
+    XTI = 2) 

C1 1 2 {C1}
R1 1 2 {R1}
D1 1 2 BAT54
C2 1 3 {C2}
R2 1 3 {R2}
D2 1 3 BAT54

.ENDS AK4458_DCLAMP
