* ADG4458 SPICE Macro-model
* Generic Desc: 8-Channel Differential 32-bit ADC
* Revision History: 1.2 (12/2023)
*
* Begin Notes:
* The model provides an static approximation of analog input impedances and power  
* consumption for nominal applications (AVDD=5V, TVDD=3.3V, Fs=96kHz, BCLK=64fs)
* VDD18 is assumed to always be an LDO output but can be turned on/off
*
* Not Modeled:
* Transient characteristics or digital/clocking characteristics
*
* Parameters modeled include:
*	Analog Input Impedance
*	AVDD, TVDD, and VREF Current
*   VDD18 LDO Output and Pulldown
*   Digital IO Leakage Current
*
* Connections
*	1  = MCLK		        17  = I2C		    33  = AOUTL3N			
*	2  = BCLK/DCLK	        18  = AOUTL1P	    34  = VREFH3
*	3  = LRCK/DSDL1		    19  = AOUTL1N	    35  = VREFL3
*	4  = SDTI1/DSDR1   	    20  = VREFL1	    36  = AOUTR3N
*	5  = SDTI2/DSDL2 	    21  = VREFH1	    37  = AOUTR3P
*	6  = SDTI3/DSDR2/TDMO1  22  = AOUTR1N	    38  = AOUTL4P
*	7  = SDTI4/DSDR3/TDMO2  23  = AOUTR1P	    39  = AOUTL4N
*	8  = DSDR3              24  = AOUTL2P	    40  = VREFH4
*	9  = DSDL4		        25  = AOUTL2N	    41  = VREFL4
*	10  = DSDR4		        26  = VREFL1	    42  = AOUTR4N
*	11  = DZF/SMUTE	        27  = VREFH2	    43  = AOUTR4P
*	12  = CAD1/DCHAIN       28  = AOUTR2N	    44  = LDOE
*	13  = SDA/CDTI/TDM0     29  = AOUTR2P	    45  = TVDD
*	14  = SCL/CCLK/TDM1     30  = AVSS		    46  = DVSS
*	15  = CAD0_I2C/CSN/DIF  31  = AVDD		    47  = VDD18
*	16  = PS/CAD0_SPI       32  = AOUTL3P	    48  = PDN
*									            49  = EPAD

.SUBCKT AK4458 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 37 38 39 40 41 42 43 44 45 46 47 48 49

.PARAM 
+   R_PULLDOWN_500 = { IF( (V(48)<=(V(45)*0.5)) & ((V(44)>=(V(45)*0.5) & V(44)<=3.4)) , 500 , 100E06 ) }
+   R_VDD18_OUT    = { 0.5 }
+   AVDD_GAIN      = { 0.012424242424242426 }
+   TVDD_GAIN      = { 0.005151515151515153 }
 
* VDD18 LDO
EVDD18  66 46 VALUE = { IF((V(48)>=(V(45)*0.5)) & (V(44)>=(V(45)*0.5)), 1.8 , 0 ) }
RVDD18  66 46 { R_PULLDOWN_500 }
RVDDOUT 66 47 { R_VDD18_OUT }

* POWER PIN APPROXIMATION
GAVDD 31 30 VALUE = { IF((V(48)>=(V(45)*0.5)), (V(31) * AVDD_GAIN) , 100E-06) }
GTVDD 45 46 VALUE = { IF((V(48)>=(V(45)*0.5)), (V(45) * TVDD_GAIN) , 100E-06) }

* ADC REFERENCE PINS
RVREF1 21 20 50E03
RVREF2 27 26 50E03
RVREF3 34 35 50E03
RVREF4 40 41 50E03

* ANALOG OUTPUT PINS
XL1PN 18 19 30 20 21 4 AK4458_AOUT_PIN
XR1PN 23 22 30 20 21 4 AK4458_AOUT_PIN
XL2PN 24 25 30 26 27 4 AK4458_AOUT_PIN
XR2PN 29 28 30 26 27 4 AK4458_AOUT_PIN
XL3PN 32 33 30 35 34 4 AK4458_AOUT_PIN
XR3PN 37 36 30 35 34 4 AK4458_AOUT_PIN
XL4PN 38 39 30 41 40 4 AK4458_AOUT_PIN
XR4PN 43 42 30 41 40 4 AK4458_AOUT_PIN

* DIGITAL IO PINS
RDIO01  1 46 1E06
RDIO02  2 46 1E06
RDIO03  3 46 1E06

RDIO04  4 46 1E06
RDIO05  5 46 1E06
RDIO06  6 46 100E03
RDIO07  7 46 100E03
RDIO08  8 46 1E06
RDIO09  9 46 1E06
RDIO10 10 46 1E06

RDIO11 11 46 100E03
RDIO12 12 46 1E06
RDIO13 13 46 1E06
CDIO13 13 46 5E-12
RDIO14 14 46 1E06
CDIO14 14 46 5E-12
RDIO15 15 46 1E06
RDIO16 16 46 1E06
RDIO17 17 46 1E06

RDIO44 44 46 1E06
RDIO48 48 46 1E06

.ENDS AK4458

* AK4458 DAC Output Pin Impedance, Crosstalk, and Clipping
* Connections
*	1 = AOUTP    2 = AOUTN    3 = AGND    4 = VREFL    5 = VREFH    6 = SIG
.SUBCKT AK4458_AOUT_PIN 1 2 3 4 5 6

.PARAM 
+   DCLAMP_VJ     = {  0.2013 }
+   DCLIP_EG      = {  0.69 }
+   DAC_AOUT_R    = {  140 }
+   DAC_MIN_VREFL = { -0.3 }
+   DAC_MAX_VREFH = {  5.5 }
+   DAC_REF_MIN   = { IF((V(4) <= DAC_MIN_VREFL), DAC_MIN_VREFL, V(4)) }
+   DAC_REF_MAX   = { IF((V(5) >= DAC_MAX_VREFH), DAC_MAX_VREFH, V(5)) }
+   DAC_REF_RANGE = { IF((V(5) <= V(4)), 0, (DAC_REF_MAX - DAC_REF_MIN)) }
+   DAC_MIN_SCALE = { ((DAC_REF_MAX - DAC_REF_MIN) - (DAC_REF_RANGE * 0.56)) / 2 }
+   DAC_MAX_SCALE = { ((DAC_REF_MAX - DAC_REF_MIN) + (DAC_REF_RANGE * 0.56)) / 2 }

* Uncomment these lines to simulate pin clip @ VREFL/VREFH
EAOUTVLIML 11 3 VALUE={ DAC_REF_MIN }
EAOUTVLIMH 12 3 VALUE={ DAC_REF_MAX }
XAOUTVLIMP 1 11 12 AK4458_DCLAMP
XAOUTVLIMN 2 11 12 AK4458_DCLAMP

R1 6 3 10E03
C1 6 3 100E-12

EBIAS NBIAS 3 VALUE={ DAC_REF_MIN + (DAC_REF_RANGE / 2) }
EOUTP NOUTP NBIAS VALUE={ IF(V(6) >= 2.8, DAC_MAX_SCALE, IF(V(6) <= -2.8, DAC_MIN_SCALE, (V(6) / 2))) }
EOUTN NOUTN NBIAS NOUTP NBIAS -1

ROUTP NOUTP 1 { DAC_AOUT_R }
COUTP NOUTP 3 30E-12

ROUTN NOUTN 2 { DAC_AOUT_R }
COUTN NOUTN 3 30E-12

.ENDS AK4458_AOUT_PIN

* Analog Signal Clamp
* Uses a BAT54 Schottky diode model; the resistors do not reflect devices.
* Instead they improve modeling in the reverse mode of operation.
* Connections
*	1 = SIG    2 = VLOW    3 = VHIGH    
.SUBCKT AK4458_DCLAMP 1 2 3

.PARAM
+   C1 = { 10E-12 }
+   C2 = { 10E-12 }
+   R1 = { 3.6E+07 }
+   R2 = { 3.6E+07 }

.MODEL BAT54 D( 
+    IS = 2.117E-07 
+    N = 1.016 
+    BV = 36 
+    IBV = 1.196E-06 
+    RS = 2.637 
+    CJO = 1.114E-11 
+    VJ = 0.2013 
+    M = 0.3868 
+    FC = 0.1 
+    TT = 5E-09 
+    EG = 0.69 
+    XTI = 2) 

C1 1 2 {C1}
R1 1 2 {R1}
D1 1 2 BAT54
C2 1 3 {C2}
R2 1 3 {R2}
D2 1 3 BAT54

.ENDS AK4458_DCLAMP
